US08871934B2
2′-methyl-biphenyl-2,4′-dicarboxylic acid
A mixture of 2-ethyl 4′-methyl 2′-methyl-biphenyl-2,4′-dicarboxylate (2.404 g), ethanol (12 ml) and 4N aqueous sodium hydroxide solution (6 ml) was stirred at 100° C. overnight. After completion of the reaction, the reaction mixture was concentrated under reduced pressure, and water (50 ml) was added to the obtained residue. This mixture was adjusted to pH 1 with 6N hydrochloric acid (5 ml), ethanol (10 ml) was added, and the mixture was stirred at room temperature for 10 min. This suspension was filtered, the obtained solid was washed with 20 v/v % ethanol-water (10 ml), air-dried, and dried under reduced pressure at 80° C. to give the title compound (1.957 g, 95%).

reactant | 2-ethyl 4′-methyl 2′-methyl-biphenyl-2,4′-dicarboxylate | 2.404 g | CC1=C(C=CC(=C1)C(=O)OC)C=1C(=CC=CC1)C(=O)OCC | C18H18O4
reactant | sodium hydroxide | 4N, 6 ml | [OH-].[Na+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2′-methyl-biphenyl-2,4′-dicarboxylic acid | 1.957 g, 95% | CC1=C(C=CC(=C1)C(=O)O)C=1C(=CC=CC1)C(=O)O | C15H12O4
